US04808711
In 10 ml of methylene chloride was suspended 0.659 g (2 mmole) of 2-(2-amino-1,3-thiazol-4-yl)-2-(1-carbazoylethoxyimino)acetic acid tert-butyl ester, and to the suspension was added 2.5 g (12.3 mmole) of N,O-bis(trimethylsilyl)acetamide to form a solution. To the ice-cooled solution was added 0.565 g (2.2 mmole) of 3,4-diacetoxybenzoic acid chloride and the mixture was stirred for 1.5 hours under ice-cooling. The resulting mixture was poured into 150 ml of ether and to the mixture was added a small amount of methanol while stirring. Resulting precipitates were collected by filtration, washed with ether and then dried to obtain 1.05 g of 2-(2-amino-1,3-thiazol-4-yl)-2-{1-[3-(3,4-diacetoxybenzoyl)carbazoyl]ethoxyimino}acetic acid tert-butyl ester.hydrochloride. (Yield: 98.0%)

reactant | 2-(2-amino-1,3-thiazol-4-yl)-2-(1-carbazoylethoxyimino)acetic acid tert-butyl ester | 2 mmole, 0.659 g | C(C)(C)(C)OC(C(=NOC(C)C(NN)=O)C=1N=C(SC1)N)=O | C12H19N5O4S
reactant | N,O-bis(trimethylsilyl)acetamide | 12.3 mmole, 2.5 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 3,4-diacetoxybenzoic acid chloride | 2.2 mmole, 0.565 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1OC(C)=O | C11H9ClO5
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(2-amino-1,3-thiazol-4-yl)-2-{1-[3-(3,4-diacetoxybenzoyl)carbazoyl]ethoxyimino}acetic acid tert-butyl ester.hydrochloride | 1.05 g, Yield: 98.0% | Cl.C(C)(C)(C)OC(C(=NOC(C)C(NNC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)=O)C=1N=C(SC1)N)=O | InChI=1S/C23H27N5O9S.ClH/c1-11(37-28-18(15-10-38-22(24)25-15)21(33)36-23(4,5)6)19(31)26-27-20(32)14-7-8-16(34-12(2)29)17(9-14)35-13(3)30;/h7-11H,1-6H3,(H2,24,25)(H,26,31)(H,27,32);1H
